US07414052B2
A mixture of (2S,3S)-3-(2,3-dihydro-1H-indol-1-yl)-3-(3-fluorophenyl)propane-1,2-diol (2.00 g, 6.96 mmol) and activated manganese dioxide (20.0 g, 230 mmol) in dichloromethane (30 mL) was stirred at 20° C. for 3 hours. The mixture was diluted with ethyl acetate (15 mL), filtered through a pad of silica gel, and concentrated. The crude product was purified by Biotage chromatography (FlasH40i, silica, 0-70% EtOAc/hexane) to give 1.40 g (71%) of (2S,3S)-3-(3-fluorophenyl)-3-(1H-indol-1-yl)propane-1,2-diol as a colorless oil. MS (ESI) m/z 286.0 ([M+H]+). HRMS: calcd for C17H16FNO2+H+, 286.1238; found (ESI, [M+H]+), 286.1239.

reactant | (2S,3S)-3-(2,3-dihydro-1H-indol-1-yl)-3-(3-fluorophenyl)propane-1,2-diol | 6.96 mmol, 2.00 g | N1(CCC2=CC=CC=C12)[C@H]([C@@H](CO)O)C1=CC(=CC=C1)F | C17H18FNO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 230 mmol, 20.0 g | [O-2].[O-2].[Mn+4]
product | (2S,3S)-3-(3-fluorophenyl)-3-(1H-indol-1-yl)propane-1,2-diol | 1.40 g, 71% | FC=1C=C(C=CC1)[C@@H]([C@@H](CO)O)N1C=CC2=CC=CC=C12 | C17H16FNO2
